US08629271B2
b) (5-Methylthiophen-3-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone
Trifluoroacetic acid (2.5 mL) was added to a solution of tert-butyl 4-(5-methylthiophene-3-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate (example 104, step a) (0.34 g) in DCM (10 mL) and the resulting mixture was stirred for 45 minutes and allowed to stand overnight. The solvent was evaporated in vacuo. Toluene (3×25 mL) was added and the mixture evaporated in vacuo. The residue was dissolved in methanol (20 mL) and applied to a SCX cartridge pre-wetted with methanol. The cartridge was washed with methanol (40 mL) and eluted with 2M ammonia in methanol solution (20 mL). The eluent was evaporated in vacuo to give the subtitled compound as a colourless oil. Yield 0.25 g.

reactant | Trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(5-methylthiophene-3-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | CC1=CC(=CS1)C(=O)N1CCOC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C19H28N2O4S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (5-Methylthiophen-3-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone | CC1=CC(=CS1)C(=O)N1CCOC2(C1)CCNCC2 | C14H20N2O2S
